US06005008
c) Synthesis of N(2-sulfhydryl 4-bromo phenyl) N'-(2-bromo phenyl) urea
A solution of (3-bromo 6-amino phenyl) disulfide (201 mg, 0.5 mmol) in DMF was treated with 2-bromo phenyl isocyanate (1 mmol) at 80° C. overnight. The reaction mixture was diluted with methylene chloride and a solid was precipitated out with hexanes. The solution was dissolved in MeOH and treated with NaBH4. After gas evolution ceased the reaction mixture was carefully acidified with 1N HCl and the resulting solid was filtered (52 mg, 13%). EI-MS m/z 399 (M-H)-

reactant | (3-bromo 6-amino phenyl) disulfide | 0.5 mmol, 201 mg | BrC=1C=C(C(=CC1)N)SSC1=CC(=CC=C1N)Br | C12H10Br2N2S2
reactant | 2-bromo phenyl isocyanate | 1 mmol | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N(2-sulfhydryl 4-bromo phenyl) N'-(2-bromo phenyl) urea | SC1=C(C=CC(=C1)Br)NC(=O)NC1=C(C=CC=C1)Br | C13H10Br2N2OS
